US05859014
A mixture of thymine (100 g, 0.79 mol), trifluoromethanesulfonic acid (2 mL, 20 mmol) and HMDS (418 mL, 1.98 mol) was heated 16 hours with stirring at 90° C. and briefly at reflux and then distilled in vacuo at 80° C. to remove the excess HMDS. The mixture was treated with trifluoromethanesulfonic acid (1.5 mL, 20 mmol) and then methoxymethyl acetate (88 mL, 0.89 mol) was added at a rate such that the reaction temperature did not exceed 95° C. The mixture was heated 20 minutes at 70° C. and then distilled in vacuo to remove the trimethysilyl acetate formed as byproduct. The reaction mixture was poured into isopropanol (800 mL) and stirred 18 hours. The solids were collected, washed with ethyl acetate and dried to give 1-methoxymethyl-5-methyl-2,4(1H,3H)-pyrimidinedione (116 g, 0.68 mol).

reactant | thymine | 0.79 mol, 100 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | HMDS | 1.98 mol, 418 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | methoxymethyl acetate | 0.89 mol, 88 mL | C(C)(=O)OCOC | C4H8O3
catalyst | trifluoromethanesulfonic acid | 20 mmol, 2 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
catalyst | trifluoromethanesulfonic acid | 20 mmol, 1.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | isopropanol | 800 mL | C(C)(C)O | C3H8O
product | 1-methoxymethyl-5-methyl-2,4(1H,3H)-pyrimidinedione | 0.68 mol, 116 g | COCN1C(NC(C(=C1)C)=O)=O | C7H10N2O3
